datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)[C@H]1CC[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10]1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>CC(C)[C@H]1CC[N+:12]2=[C:11]([N:10]1[CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1)[S:62]C1=C2C=CC=C1 10,11=10,20;12=11,12;20,21=21"
"C[C:61]1=[N:62][C:72](C)=[CH:71][N-:10]1.C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[N:21](C)[CH:20]([N:10]1[C:61](C)=[N:62][C:72](C)=[CH:71]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21"
"C/[CH:63]=[CH:62]\[CH:11]=[CH2:10].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][CH+:11]/[CH:62]=[CH:63]\C)[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C.OC[C@@H]1CCC[NH:10]1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([NH+:10]2CCC[C@H]2CO)[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1.FC(F)(F)[C:84]1=[CH:83][CH:82]=[C:81]([CH-:10][S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[CH:92]=[CH:93]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[C:84](C(F)(F)F)[CH:93]=[CH:92]2)[C:21](C[N+]23CCN(CC2)CC3)=[C:22](C)[O-:23])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25].[O-:10][C:61]1=[C:62]([N+:63](=[O:64])[O-:74])[CH:83]=[CH:84][CH:85]=[CH:86]1>>C[C:21]([CH:20]([O:10][C:61]1=[C:62]([N+:63](=[O:64])[O-:74])[CH:83]=[CH:84][CH:85]=[CH:86]1)[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](N)[O-:25] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC[C:11](C)=[CH2:10].CN1C=C[N+](C)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC[C+:11](C)[CH2:10][CH:20]([CH:21]=[C:22](C1=[N+](C)C=CN1C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([P:71](C2=CC=CC=C2)([CH-:10][C:61]#[N:62])=[O:72])C=C1.C1CC[C:21](=[O:20])C1>>C1=CC=C([P:71](C2=CC=CC=C2)([CH:10]([O:20][C-:21]2CCCC2)[C:61]#[N:62])=[O:72])C=C1 10=20;20,21=21"
"CC(C)(C)[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.CC[O:72][C:61](/[C:10](F)=[C:11](\[O-:12])[O:82]CC)=[O:62]>>CC[O:72][C:61]([C:10](F)([C:11](=[O:12])[O:82]CC)[CH:20]([C:21]1=[C:22](C(C)(C)C)[NH:23]C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[Si](C)(C)O[N:12](O[Si](C)(C)C(C)(C)C)[C:11](C)=[CH2:10].C[C:21]1=[CH:20]CC[C:22]1=[O:23]>>CC(C)(C)[Si](C)(C)O[N+:12](O[Si](C)(C)C(C)(C)C)=[C:11](C)[CH2:10][CH:20]1CC[C:22]([O-:23])=[C:21]1C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][C:11](C)=[CH2:10].Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][C+:11](C)[CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10,11=10,20"
"C1C[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1.C[Si:63]1(C)CCC[CH:11]([H:10])[CH2:62]1>>C1C[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1.C[Si:63]1(C)CCC[CH+:11][CH2:62]1 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[CH:10]/[C:71]#[N:72])[O-:12].COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1>>CC[O:62][C:11]([CH:10]([CH:20]1[CH:21]=[C:22](C2=CC=C(OC)C=C2)[O:23][C:32]2=[C:31]1C=CC=C2)[C:71]#[N:72])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21.C[Si:71](C)(C)[CH-:10][N+:61]#[N:62]>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH:10]([N+:61]#[N:62])[Si:71](C)(C)C)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)=[CH:22]1 10=20;20,21=21,22;22,23=23"
"C[C:10](C)=[C:11](C)C.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:10](C)([C+:11](C)C)[C:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20"
